US06461600B1
Preparation of amitriptyline/carrier mixture.
0.750 gm amitriptyline hydrochloride USP, is wetted with 1.5 ml of ethoxy diglycol reagent, and stirred into 75 gm of the base cream prepared as per example 3 and triple milled. A cream-type preparation results which contains amitriptyline hydrochloride @ 10 mg/ml

reactant | amitriptyline hydrochloride | 0.750 gm | CN(C)CCC=C1C=2C=CC=CC2CCC3=C1C=CC=C3.Cl
reactant | ethoxy diglycol | 1.5 ml | CCOCCOCCO | C6H14O3
product | amitriptyline | CN(C)CCC=C1C=2C=CC=CC2CCC3=C1C=CC=C3 | C20H23N
